US04220767
m-Anisaldehyde (25.9 g), N-acetylglycine (15.2 g) and sodium acetate (7.8 g) were heated together under reflux in acetic anhydride (50 ml) for 3/4 hour. The mixture was allowed to cool, water (150 ml) was added and the mixture was filtered to give the crude azlactone (27.7 g) m.p. 145°-150°. Hydrolysis with boiling 1 N hydrochloric acid (450 ml) followed by cooling and ether extraction afforded 3-methoxyphenylpyruvic acid as a pale yellow oily solid (6.3 g).

reactant | m-Anisaldehyde | 25.9 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | N-acetylglycine | 15.2 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 7.8 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 N, 450 ml | Cl | ClH
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 150 ml | O | H2O
product | 3-methoxyphenylpyruvic acid | 6.3 g | COC=1C=C(C=CC1)CC(C(=O)O)=O | C10H10O4
